US05484774
To a suspension of 2-[(R)-N-tert-butyloxycarbonyl]amino-1-propanol (4.0 g, 23 mmol), 2-mercaptothiazole (2.9 g, 25 mmol) and triphenylphosphine (7.3 g, 28 mmol) in dry toluene (50 ml) under nitrogen, a solution of diisopropylazocarboxylate (4.9 g, 28 mmol) in dry toluene (30 ml) was added dropwise. The reaction mixture was stirred for 40 h at 20° C. and filtered. The filtrate was evaporated to an oil prior to purification by "flash" chromatography. Elution with a mixture of heptane and ethyl acetate (3:2) provided 2-[2-(R)-tert-butyloxycarbonylamino-1-propylthio]thiazole (3.0 g, 48%) as an oil, TLC Rf 0.33 [heptane/ethyl acetate (3:2)].

reactant | 2-mercaptothiazole | 25 mmol, 2.9 g | SC=1SC=CN1 | C3H3NS2
reactant | triphenylphosphine | 28 mmol, 7.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazocarboxylate | 28 mmol, 4.9 g | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(R)-tert-butyloxycarbonylamino-1-propylthio]thiazole | 3.0 g, 48% | C(C)(C)(C)OC(=O)N[C@@H](CSC=1SC=CN1)C | C11H18N2O2S2
